US07776868B2
A mixture of propionic acid (0.8 ml, 10 mol), diphenylphosphoryl azide (2.22 ml, 10.3 mmol) and triethylamine (1.39 ml, 10 mmol) in toluene (15 ml) was refluxed for 90 minutes. The mixture was then cooled to below 40° C., and a solution of ethyl 2-amino-5-(ethoxycarbonyl)-4-methylthiophene-3-carboxylate (1.76 g, 6.85 mmol) in toluene (10 ml) was added, the mixture refluxed for 24 hours. The reaction mixture was diluted with brine, and extracted with ethyl acetate. The organic layer was washed with brine and dried over sodium sulfate. Solvent was removed under reduced pressure, and the residue purified by column chromatography, eluting with ethyl acetate/hexane 1:6 to 1:4, to provide ethyl 5-(ethoxycarbonyl)-2-[(ethylamino)carbonylamino]-4-methylthiophene-3-carboxylate. The structure was confirmed by 1H NMR and mass spectrometry.

reactant | propionic acid | 10 mol, 0.8 ml | C(CC)(=O)O | C3H6O2
reactant | diphenylphosphoryl azide | 10.3 mmol, 2.22 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 10 mmol, 1.39 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-amino-5-(ethoxycarbonyl)-4-methylthiophene-3-carboxylate | 6.85 mmol, 1.76 g | NC=1SC(=C(C1C(=O)OCC)C)C(=O)OCC | C11H15NO4S
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | brine | [Cl-].[Na+].O
product | ethyl 5-(ethoxycarbonyl)-2-[(ethylamino)carbonylamino]-4-methylthiophene-3-carboxylate | C(C)OC(=O)C1=C(C(=C(S1)NC(=O)NCC)C(=O)OCC)C | C14H20N2O5S
